US05455258
To a suspension of sodium hydride (0.60 g, 11.0 mmol) in dimethylformamide (20.0 mL), is added N-[4-methoxybenzenesulfonyl]-alanine methyl ester (2.6 g, 10.0 mmol) in dimethylformamide (10.0 mL). After stirring at room temperature for 30 minutes, benzyl bromide (1.22 mL, 10.0 mmol) is added, and the reaction is stirred for two hours at room temperature. The reaction is then partitioned between ether and brine, the organic layer is dried (Na2SO4), and the solvent is evaporated. The product is purified by silica gel chromatography (20% ether/hexanes)to give methyl 2-[[4-methoxybenzenesulfonyl](benzyl)amino]-propionoate.

reactant | sodium hydride | 11.0 mmol, 0.60 g | [H-].[Na+]
reactant | N-[4-methoxybenzenesulfonyl]-alanine methyl ester | 10.0 mmol, 2.6 g | COC([C@@H](NS(=O)(=O)C1=CC=C(C=C1)OC)C)=O | C11H15NO5S
reactant | benzyl bromide | 10.0 mmol, 1.22 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 20.0 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10.0 mL | CN(C=O)C | C3H7NO
product | methyl 2-[[4-methoxybenzenesulfonyl](benzyl)amino]-propionoate | COC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C)CC1=CC=CC=C1 | C18H21NO5S
